US06743924B2
[2-[(E)-2-[4-(Trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methylmethanesulfonate (500 mg, 1.44 mmol), 4-[4-(1H-1,2,3-triazol-1-yl)butyl]phenol (344 mg, 1.58 mmol) and tetra(n-butyl) ammonium bromide (45 mg, 0.14 mmol) were added to THF (5 ml), and 1N-aqueous sodium hydroxide solution (3.0 mL, 3.00 mmol) was added. The mixture was stirred at room temperature for 5 hours. 10% Brine (10 ml) was added and the mixture was extracted with ethyl acetate (10 ml). The organic layer was washed with 10% brine (10 ml). The aqueous layers were combined and extracted with ethyl acetate (10 ml). The organic layers were combined and concentrated. Ethanol (15 ml) was added to the residue and the mixture was refluxed under heating for dissolution. After allowing to cool to room temperature and stirring, the mixture was stirred for 1 hour under ice-cooling. The precipitated crystals were collected by filtration, washed with cold-ethanol (2 ml) and dried under reduced pressure to give 1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-1,2,3-triazole (556 mg, 1.19 mmol, yield 81%).

reactant | [2-[(E)-2-[4-(Trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methylmethanesulfonate | 1.44 mmol, 500 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)CCS(=O)(=O)[O-])(F)F
reactant | 4-[4-(1H-1,2,3-triazol-1-yl)butyl]phenol | 1.58 mmol, 344 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 3.00 mmol, 3.0 mL | [OH-].[Na+]
catalyst | tetra(n-butyl) ammonium bromide | 0.14 mmol, 45 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Brine | 10 ml | [Cl-].[Na+].O
product | 1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-1,2,3-triazole | 1.19 mmol, 556 mg, yield 81% | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1)(F)F | C25H23F3N4O2
